US07291631B2
COMPOUND 373:{3-[(3-methyl-pyridin-2-yl)-(5.6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-guanidine (HBr salt)
N1-(3-methyl-pyridin-2-yl)-N-(5,6,7,8-tetrahydro-quinolin-8-yl)-propane-1,3-diamine (63 mg, 0.20 mmol) and (tert-butoxycarbonylimino-pyrazol-1-yl-methyl)carbamic acid tert-butyl ester (110 mg, 0.31 mmol) was stirred in THF (0.3 mL) for 16 hours. The solvent was removed under reduced pressure, CH2Cl2 (10 mL) was added and the organic phase washed with 15% aqueous NaOH solution (5×5 mL). The organic phase was then dried (Na2SO4) and concentrated under reduced pressure to afford, after column chromatography with silica gel (33:1:0.1 CH2Cl2/MeOH:NH4OH), ({3-[(3-methyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-tert-butoxycarbonylimino-methyl)-carbamic acid tert butyl ester as a pale brown sticky solid (50 mg, 49%),

reactant | N1-(3-methyl-pyridin-2-yl)-N-(5,6,7,8-tetrahydro-quinolin-8-yl)-propane-1,3-diamine | 0.20 mmol, 63 mg | CC=1C(=NC=CC1)N(CCCN)C1CCCC=2C=CC=NC12 | C18H24N4
reactant | (tert-butoxycarbonylimino-pyrazol-1-yl-methyl)carbamic acid tert-butyl ester | 0.31 mmol, 110 mg | C(C)(C)(C)OC(NC(N1N=CC=C1)=NC(=O)OC(C)(C)C)=O | C14H22N4O4
reactant | ({3-[(3-methyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-tert-butoxycarbonylimino-methyl)-carbamic acid tert butyl ester | 50 mg | C(C)(C)(C)OC(NC(=NC(=O)OC(C)(C)C)CCCN(C1CCCC=2C=CC=NC12)CC1=NC=CC=C1C)=O | C30H43N5O4
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | {3-[(3-methyl-pyridin-2-yl)-(5.6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-guanidine | CC=1C(=NC=CC1)N(CCCNC(=N)N)C1CCCC=2C=CC=NC12 | C19H26N6
